US09108947B2
Six vials containing a solution of 4-methyl-5-[(2R)-oxiran-2-yl]-2-benzofuran-1(3H)-one (325 mg, 1.67 mmol) in 12 mL ethanol added to tert-butyl(pyrrolidin-2-ylmethyl)carbamate (333 mg, 1.67 mmol) were prepared. The reaction mixtures were microwaved at 140° C. for 55 minutes. The solutions were combined and the solvents were removed in vacuo. The resulting residue was purified by HPLC to afford two diastereomers of tert-butyl({1-[(2R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]pyrrolidin-2-yl}methyl)carbamate:

reactant | 4-methyl-5-[(2R)-oxiran-2-yl]-2-benzofuran-1(3H)-one | 1.67 mmol, 325 mg | CC1=C(C=CC=2C(OCC21)=O)[C@H]2OC2 | C11H10O3
reactant | tert-butyl(pyrrolidin-2-ylmethyl)carbamate | 1.67 mmol, 333 mg | C(C)(C)(C)OC(NCC1NCCC1)=O | C10H20N2O2
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | tert-butyl({1-[(2R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]pyrrolidin-2-yl}methyl)carbamate | C(C)(C)(C)OC(NCC1N(CCC1)C[C@@H](C1=C(C2=C(C(OC2)=O)C=C1)C)O)=O | C21H30N2O5
